US04394515
8-Acetyl-3-cyano-10,11-dihydrodibenzo[b,f]thiepin
Add 125.5 g. (0.94 mole) of aluminum chloride and 47.9 g. (0.47 mole) of acetic anhydride to 1.01 of dichloroethane. Stir at room temperature for 10 minutes. Add 14 g. (0.058 mole) of 3-cyano-10,11-dihydrodibenzo[b,f]thiepin in portions. Stir at room temperature for 4 hours. Pour the reaction mixture over ice and extract into ethyl acetate. Wash with water, dry over sodium sulfate, filter and evaporate to dryness to obtain the title product. (m.p. 138°-141° C.)

reactant | aluminum chloride | 0.94 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetic anhydride | 0.47 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | 3-cyano-10,11-dihydrodibenzo[b,f]thiepin | 0.058 mole | C(#N)C=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C15H11NS
product | 8-Acetyl-3-cyano-10,11-dihydrodibenzo[b,f]thiepin | C(C)(=O)C=1C=CC2=C(CCC3=C(S2)C=C(C=C3)C#N)C1 | C17H13NOS
